reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[N:1]([C+:2]([C:4]([O:5][C:6](=[O:3])[H:12])([H:10])[H:11])[N-:7][H:13])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9],49.31182542517589
[N:1]([C:2](=[O:3])/[C:4]([O:5][H:9])=[N:6]\[H:10])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[C:4](=[O:5])[N:6]([H:9])[H:10])([H:7])[H:8],31.856624353750693
[N:1]([c+:2]1[n-:3][c:4]([H:9])[n:5][o:6]1)([H:7])[H:8]>>[N:1](=[c:2]1\[n:3][c:4]([H:9])[n:5]([H:8])[o:6]1)\[H:7],111.671009545811
[O:1]([C@@:2]([C:3]([C:4]#[N:5])([H:10])[H:11])([C:6]#[C:7][H:12])[H:9])[H:8]>>[O:1]([C:2]([C:3]([C:4]#[N:5])([H:10])[H:11])=[C:6]=[C:7]([H:9])[H:12])[H:8],71.9727754997465
[O:1]=[C:2]([C:3](=[O:4])[C:5](=[O:6])[H:8])[H:7]>>[C:3](=[O:4])=[C:5]([O:6][H:7])[H:8].[O+:1]#[C-:2],43.46335142193811
[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9]>>[N:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])([H:14])[O:5]/[C:6]1=[N:7]\[H:15])([H:8])[H:9],59.348265225148
[O:1]([C:2]([C@@:3]1([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])([H:15])[C:6]([H:16])([H:17])[O:7]1)([H:9])[H:10])[H:8]>>[O:1]1[C:2]([H:9])([H:10])[C@:3]1([C:4]([C:5]([C:6]([O:7][H:8])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11],66.5705004411506
[O:1]([C:2]([C@@:3]1([C:6](=[O:7])[H:14])[C:4]([H:11])([H:12])[N:5]1[H:13])([H:9])[H:10])[H:8]>>[O:1]1[C:2]([H:9])([H:10])[C@:3]2([C:4]([H:11])([H:12])[N:5]2[H:13])[C@:6]1([O:7][H:8])[H:14],55.1934560963237
[C:1](=[C:2]=[C:3]=[C:4]([O:5][H:8])[C:6]([H:10])([H:11])[H:12])([H:7])[H:9]>>[C:1]([C:2]#[C:3][C:4](=[O:5])[C:6]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9],38.939153533614416
[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])[H:9].[O:3]([H:10])[H:12],66.436947571752
[C:1]([C:2]([N:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3]([C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4](=[O:5])=[O:6],77.9582289876727
[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]([C:4]#[C:5][H:12])=[C:6]=[N:7][H:11])([H:9])[H:10])[H:8],83.48259412381358
[C:1]([C:2](=[C:3]=[C:4]([N+:6]#[C-:5])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3]#[C:4][H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],79.0346800659723
[C:4]([O:5][H:13])[H:11].[O:1]([C:2]([C:3]([H:9])([H:10])[H:12])([H:7])[H:8])[H:6]>>[O:1]([C:2]([C:3]([C:4]([O:5][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8])[H:6],24.034483754911093
[C-:1]([O+:2]=[C:3]([H:10])[H:11])([H:7])[H:9].[C:4]([O:5][C:6]([H:14])([H:15])[H:16])([H:8])([H:12])[H:13]>>[C:1]([O:2][C:3]([C:4]([O:5][C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],22.459038383335297
[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C+:1]([N:2]([C@:3]1([O-:4])[C@:5]([C:6]([H:13])([H:14])[H:15])([H:12])[C:7]1([H:17])[H:18])[H:11])([H:9])[H:10].[H:8][H:16],109.527628183369
[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:9])[C@@:2]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:11])[C@:3]1([O:4][H:14])[H:12].[H:10][H:13],102.700417310494
[C:1](/[N:2]=[C:5](/[C:3]([N:4]([H:10])[H:11])=[O:6])[H:12])([H:7])([H:8])[H:9]>>[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9],89.5331224401067
[N:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])([H:7])[H:8]>>[N:1]([C-:2]=[O+:3][C@@:5]1([H:11])[C:4]([H:9])([H:10])[O:6]1)([H:7])[H:8],106.850115750234
[C:1]([C:2]([C:3]#[C:4][C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C+:2](=[C:3]=[C-:4][C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11].[C:1]([H:7])([H:8])([H:9])[H:10],88.20798438296791
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:7]1([C:4]([O:5][H:12])=[C:6]([H:13])[H:14])[H:15])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8],79.41148221860522
[N:1]([C:2](=[O:3])[C:4]([C:6](=[C:5])[H:11])([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[C:4]([C:5]#[C:6][H:11])([H:9])[H:10])([H:7])[H:8],13.376262518395208
[C:1]([C:2]([C:3]#[C:4][C:5]([H:11])([H:12])[H:13])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1=[C:4]([C:5]([H:11])([H:12])[H:13])[H:6],100.89722986978701
[O:1]([C:2]1([C:5]#[N:6])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7]>>[O:1]([C:2][C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])([H:8])[H:9])[H:7],59.3182692405095
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([H:13])([H:14])[H:15])[O:6][H:16])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([H:13])([H:14])[H:15])[O:6][H:16])([H:7])([H:8])[H:9],72.99674328467408
